US05521147
A 60% dispersion of sodium hydride in mineral oil (0.80 g, 0.020 mole) is placed in a flask, and the mineral oil is removed from it with two heptane washes. The sodium hydride is then suspended in 30 mL of N,N-dimethylformamide, and the suspension is cooled to 0°-10° C. To this suspension is added in a dropwise manner a solution of 4.53 g (0.016 mole) of methyl 2-ethoxycarbonylmethoxy-3-nitrosalicylate in 10 mL of N,N-dimethylformamide. Upon completion of addition, the reaction mixture is allowed to warm to ambient temperature at which it is stirred for approximately 16 hours. At the conclusion of this period, the reaction mixture is cooled and acidified with concentrated hydrochloric acid. Then 200 mL of a 10% aqueous solution of lithium chloride is added to the reaction mixture, and the resulting mixture is extracted three times with ethyl acetate. The combined extracts are washed with 100 mL of the 10% aqueous solution of lithium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate is concentrated under reduced pressure, leaving a residue which is then passed through a column of silica gel, eluting with ethyl acetate. The product-containing fractions are combined, and the solvent is evaporated under reduced pressure, leaving ethyl 2,3-dihydro-7-nitrobenzofuran-3-on-2-ylcarboxylate as a residue.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-ethoxycarbonylmethoxy-3-nitrosalicylate | 0.016 mole, 4.53 g | C(C)OC(=O)COC1(C(C(=O)OC)C=CC=C1[N+](=O)[O-])O | C12H15NO8
reactant | hydrochloric acid | Cl | ClH
reactant | lithium chloride | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | ethyl 2,3-dihydro-7-nitrobenzofuran-3-on-2-ylcarboxylate | [N+](=O)([O-])C1=CC=CC=2C(C(OC21)C(=O)OCC)=O | C11H9NO6
